US09353081B2
(rac)-N-(4-(7-Fluoro-1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-yl)-6,7-dihydro-5H-cyclopenta[c]pyridin-7-yl)propionamide
In analogy to the procedure described for the preparation of intermediate A-2 [E], (rac)-N-(4-bromo-6,7-dihydro-5H-cyclopenta[c]pyridin-7-yl)propionamide (intermediate A-3) was reacted with 7-fluoro-1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one (intermediate A-9) to give the title compound as a light brown solid in 72% yield. MS: 368.2 (M+H+).

reactant | (rac)-N-(4-bromo-6,7-dihydro-5H-cyclopenta[c]pyridin-7-yl)propionamide | BrC=1C2=C(C=NC1)C(CC2)NC(CC)=O | C11H13BrN2O
reactant | 7-fluoro-1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one | FC1=C(C=C2CCC(N(C2=C1)C)=O)B1OC(C(O1)(C)C)(C)C | C16H21BFNO3
product | (rac)-N-(4-(7-Fluoro-1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-yl)-6,7-dihydro-5H-cyclopenta[c]pyridin-7-yl)propionamide | 72% yield | FC1=C(C=C2CCC(N(C2=C1)C)=O)C=1C2=C(C=NC1)C(CC2)NC(CC)=O | C21H22FN3O2
